US05420128
7-Hydroxy-3-(3-methoxy-4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine
To 340 mg of 7-hydroxy-6-ethoxycarbonyl-3-(3-methoxy-4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine, 15 ml of dioxane and 2 ml of aqueous solution of 2N sodium hydroxide were added, and heated and refluxed for 1 hour. The reaction mixture was concentrated in vacuo, and 30 ml of water was added to the residue, which was neutralized with acetic acid. The precipitate was filtered, washed with water and dried, and the title compound was obtained (260 mg)

reactant | 7-hydroxy-6-ethoxycarbonyl-3-(3-methoxy-4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine | 340 mg | OC1=C(C=NC=2N1N=CC2C2=CC(=C(C=C2)SC2=CC=CC=C2)OC)C(=O)OCC | C22H19N3O4S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 7-Hydroxy-3-(3-methoxy-4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine | OC1=CC=NC=2N1N=CC2C2=CC(=C(C=C2)SC2=CC=CC=C2)OC | C19H15N3O2S
